US09301951B2
N1-(2-(4-acetylpiperazin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
Into a 50-mL round-bottom flask, was placed a solution of N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)-isophthalamide (150 mg, 0.21 mmol, 1.00 equiv) in dichloromethane (3 mL), and triethylamine (63 mg, 0.62 mmol, 3.00 equiv). This was followed by dropwise addition of acetyl chloride (25 mg, 0.32 mmol, 1.50 equiv) with stirring at 0° C. The resulting solution was stirred for 2 h at 25° C. The reaction was then quenched with 3 mL of water. The resulting solution was extracted with 2×5 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×5 mL of sodium bicarbonate and 2×5 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (130 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 56.5 mg (38%) of a light yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.96 (d, J=5.1 Hz, 1H), 8.70 (d, J=9.0 Hz, 1H), 8.43 (s, 1H), 8.16-8.08 (m, 3H), 7.87˜7.86 (m, 1H), 7.79˜7.56 (m, 7H), 4.71 (s, 2H), 4.00-3.89 (m, 5H), 3.63-3.52 (m, 11H), 3.23 (s, 3H), 2.17 (s, 3H), 2.01 (s, 1H), 1.81 (d, J=4.8 Hz, 1H). MS (ES, m/z): 770 [M+H]+.

reactant | N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)-isophthalamide | 0.21 mmol, 150 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCNCC1 | C40H44F3N7O3
reactant | triethylamine | 0.62 mmol, 63 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.32 mmol, 25 mg, 1.50 equiv | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N1-(2-(4-acetylpiperazin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 56.5 mg, 38% | C(C)(=O)N1CCN(CC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C | C42H46F3N7O4
